US05185358
Step 1--Preparation of 3-amino-5-tridecyl-1,2,4-oxadiazole
Sodium metal (1.6 g, 0.068 mol) was added to 4 Å molecular sieves (12 g) and ethanol (200 mL) under nitrogen. The mixture was stirred for 15 minutes, then hydroxyguanidine sulfate (9.32 g, 0.035 mol) added and the mixture stirred for 30 minutes. Methyltetradecanoate (1.43 g, 0.006 mol) was then added and the mixture refluxed for 1.5 hours, allowed to cool, filtered, and concentrated. The concentrate was partitioned between CH2Cl2 and water. The organic layer was washed with water and brine, dried with Na2SO4, filtered, concentrated, and triturated with hexane. The resulting solid was filtered, washed with hexane, and dried in vacuo to yield 0.23 g, m.p. 90°-91° C.

reactant | Sodium | 0.068 mol, 1.6 g | [Na] | Na
reactant | hydroxyguanidine sulfate | 0.035 mol, 9.32 g | C(=N)(N)NO.OS(=O)(=O)O
reactant | Methyltetradecanoate | 0.006 mol, 1.43 g | COC(CCCCCCCCCCCCC)=O | C15H30O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-amino-5-tridecyl-1,2,4-oxadiazole | NC1=NOC(=N1)CCCCCCCCCCCCC | C15H29N3O
